US04112112
2-Cyano-6,11-dihydro-11-(N-2,2,2-trichloroethoxycarbonyl-3-methylaminopropylidene)-5H-pyrrolo[2,1-b][3]benzazepine (4.0 g., 8.7 mmole) and zinc dust (8 g.) in 25 ml. acetic acid was stirred at room temperature for 18 hours. The solid was filtered off and washed with acetic acid. The filtrate was taken to dryness. The residue was dissolved in dilute hydrochloric acid and extracted with ethyl acetate. The aqueous phase was then made basic, extracted with methylene chloride; the organic layer was washed with water, dried over sodium sulfate and concentrated to yield 2-cyano-6,11-dihydro-11-(methylaminopropylidene)-5H-pyrrolo[2,1-b][3]benzazepine (2.3 g., 95%) as a brown oil.

reactant | 2-Cyano-6,11-dihydro-11-(N-2,2,2-trichloroethoxycarbonyl-3-methylaminopropylidene)-5H-pyrrolo[2,1-b][3]benzazepine | 8.7 mmole, 4.0 g | C(#N)C=1C=C2C(C3=C(CCN2C1)C=CC=C3)=CCCN(C(=O)OCC(Cl)(Cl)Cl)C | C21H20Cl3N3O2
catalyst | zinc | 8 g | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-cyano-6,11-dihydro-11-(methylaminopropylidene)-5H-pyrrolo[2,1-b][3]benzazepine | 2.3 g, 95% | C(#N)C=1C=C2C(C3=C(CCN2C1)C=CC=C3)=CCCNC | C18H19N3
